US05677321
5-Aminobenzothiazole
To a solution of SnCl2 (7.0 g, 8.8 mmol) and 14 mL of con.HCl was added 5-nitrobenzothiazole (0.65 g, 3.6 mmol) in a portion and resulting reaction mixture was stirred for 1 h at 25° C. The reaction mixture was basified with aqueous NaOH and extracted with EtOAc. Combined organic layers were dried over Na2SO4 and concentrated in vacuo, yielding an oil (0.47 g, 3.2 mmol, 89%) which was identified as the amine (>95% pure) and subjected to the following reaction without further purification.

reactant | SnCl2 | 8.8 mmol, 7.0 g | Cl[Sn]Cl
reactant | HCl | Cl | ClH
reactant | 5-nitrobenzothiazole | 3.6 mmol, 0.65 g | [N+](=O)([O-])C=1C=CC2=C(N=CS2)C1 | C7H4N2O2S
reactant | NaOH | [OH-].[Na+]
product | 5-Aminobenzothiazole | 3.2 mmol, 0.47 g, 89% | NC=1C=CC2=C(N=CS2)C1 | C7H6N2S
